US09034900B2
Step 1: 4-(2,4-difluorophenoxy)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline
A mixture of 3-bromo-4-(2,4-difluorophenoxy)aniline (300 mg, 1 mmol), 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (518 mg, 2 mmol), KOAc (300 mg, 3 mmol) and Pd(dppf)Cl2 (73.2 mg, 0.1 mmol) in dioxane (6 mL) was microwaved at 100° C. for 2 h. Purification by silica gel chromatography (PE:EA=10:1 to 5:1) gave the title compound (200 mg, 56%). LCMS: 348.0 (M+H)+

reactant | 3-bromo-4-(2,4-difluorophenoxy)aniline | 1 mmol, 300 mg | BrC=1C=C(N)C=CC1OC1=C(C=C(C=C1)F)F | C12H8BrF2NO
reactant | 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 2 mmol, 518 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 3 mmol, 300 mg | CC(=O)[O-].[K+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.1 mmol, 73.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(2,4-difluorophenoxy)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 200 mg, 56% | FC1=C(OC2=C(C=C(N)C=C2)B2OC(C(O2)(C)C)(C)C)C=CC(=C1)F | C18H20BF2NO3
